### PR TITLE
[Merged by Bors] - chore: clean up some `erw` in cyclotomic polynomials

### PR DESCRIPTION
**Pull request by kim-em**

### CODE REVIEW

**Comment by grunweg** [comment]
!bench

**Comment by grunweg** [comment]
Assuming no bad performance effect, LGTM. Thanks!
maintainer merge

File: Mathlib/RingTheory/Polynomial/Cyclotomic/Eval.lean [hunk 1]
```diff
@@ -181,17 +181,15 @@ theorem sub_one_pow_totient_lt_cyclotomic_eval {n : ℕ} {q : ℝ} (hn' : 2 ≤
...
     linarith [hζ.unique IsPrimitiveRoot.one]
-  have : ¬eval (↑q) (cyclotomic n ℂ) = 0 := by
-    erw [cyclotomic.eval_apply q n (algebraMap ℝ ℂ)]
-    simpa only [Complex.coe_algebraMap, Complex.ofReal_eq_zero] using (cyclotomic_pos' n hq').ne'
+  have : ¬eval (↑q) (cyclotomic n ℂ) = 0 := by simpa using (cyclotomic_pos' n hq').ne'
   suffices Units.mk0 (Real.toNNReal (q - 1)) (by simp [hq']) ^ totient n <
-      Units.mk0 ‖(cyclotomic n ℂ).eval ↑q‖₊ (by simp [this]) by
-    simp only [← Units.val_lt_val, Units.val_pow_eq_pow_val, Units.val_mk0, ← NNReal.coe_lt_coe,
+      Units.mk0 ‖(cyclotomic n ℂ).eval ↑q‖₊ (by simp_all) by
+    simp [← Units.val_lt_val, Units.val_pow_eq_pow_val, Units.val_mk0, ← NNReal.coe_lt_coe,
```
Comment (Vierkantor) [inline Mathlib/RingTheory/Polynomial/Cyclotomic/Eval.lean:187]: Isn't this a nonterminal `simp` that should be a `simp only`? Or is the indentation misleading here?

**Review by Vierkantor — APPROVED** [review]
LGTM otherwise!

bors d+

File: Mathlib/RingTheory/Polynomial/Cyclotomic/Eval.lean (hunk 1 above)
Comment (kim-em) [reply Mathlib/RingTheory/Polynomial/Cyclotomic/Eval.lean:187]: No, i just didn't read the indentiation carefully enough. Thanks.

**Comment by kim-em** [comment]
bors merge
